US05968944
(R)-2-[3,5-Diethyl-1-(4-ethyl-2,6-dimethylphenyl)-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline
To a solution of n-butyl lithium (2.5 M hexane solution; 0.062 ml, 0.16 mmol) chilled to -78° C., a solution of (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline (72 mg, 0.14 mmol) in anhydrous tetrahydrofuran (0.2 ml) was added dropwise. After stirring at -78° C. for 10 minutes, anhydrous ethyl iodide (0.056 ml, 0.70 mmol) was added. The resulting mixture was warmed to ambient temperature and stirred for 1 hour. The reaction was quenched by addition of aqueous ammonium chloride (1 ml), then extracted with ethyl acetate/water (5 ml of each). The separated organic extract was washed with an equal volume solution of aqueous ammonium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo to afford a yellow oil (46 mg). Flash chromatography (silica gel, 40 micron mesh; elution with ethyl actate/hexane=1:5 in volume) afforded the title compound (10 mg) as a light yellow oil.

reactant | n-butyl lithium | 0.16 mmol, 2.5 M, 0.062 ml | C(CCC)[Li]
reactant | (R)-2-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline | 0.14 mmol, 72 mg | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CN1CC2=CC=CC=C2C[C@@H]1COCC)CC)C | C28H36BrN3O
reactant | ethyl iodide | 0.70 mmol, 0.056 ml | C(C)I | C2H5I
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | (R)-2-[3,5-Diethyl-1-(4-ethyl-2,6-dimethylphenyl)-1H-pyrazol-4-ylmethyl]-3-ethoxymethyl-1,2,3,4-tetrahydro-isoquinoline | 46 mg | C(C)C1=NN(C(=C1CN1CC2=CC=CC=C2C[C@@H]1COCC)CC)C1=C(C=C(C=C1C)CC)C | C30H41N3O
